US06159904
72-4) Synthesis of 4-methoxymethyl-5,8-dimethylthiochroman
To a mixture of 1.32 g (6.33 mmol) of 4-hydroxymethyl-5,8-dimethylthiochroman with 13 ml of methanol was added 0.1 ml of concentrated sulfuric acid, and the mixture was reacted at reflux under heat for 10 hours. The reaction mixture was cooled to room temperature, poured into ice water and extracted with ethyl acetate. The extract was washed with water and with a saturated sodium chloride aqueous solution. An organic layer was dried over anhydrous sodium sulfate and filtered, and the solvent was distilled off. The residue was purified by column chromatography (silica gel; hexane/ethyl acetate=2/1)to give 0.84 g (yield 60%) of the titled compound.

reactant | 4-hydroxymethyl-5,8-dimethylthiochroman | 6.33 mmol, 1.32 g | OCC1CCSC2=C(C=CC(=C12)C)C | C12H16OS
reactant | methanol | 13 ml | CO | CH4O
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 4-methoxymethyl-5,8-dimethylthiochroman | 0.84 g, yield 60% | COCC1CCSC2=C(C=CC(=C12)C)C | C13H18OS
